US06921767B2
Synthesis of 2-(1-Methyl-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-6-yl)ethanol Step 1.
LiAlH4 (214 mg, 5.64 mmol) was slowly added to 10 mL anhydrous THF in a round-bottom flask fitted with a stirbar and a condenser. After stirring for 10 minutes, a solution of 1,6-dimethyl-1,4-dihydropyrido[2,3-b]pyrazin-3(2H)-one (500 mg, 2.82 mmol) in 5 mL anhydrous THF was added dropwise. Upon completion of the addition, the reaction mixture was refluxed for 16 hours. The reaction was cooled to room temperature and quenched with 1 M NaOH solution until the mixture had become a milky yellow color. The precipitate was filtered off and washed 3 times with CH2Cl2. The filtrate and washings were combined, washed with brine, dried over MgSO4. Filtered and concentrated under reduced pressure to give the desired product as light yellow oil, which solidified on standing. (420 mg, 91% yield). H NMR (400 MHz, CDCl3) δ 2.27 (s, 3H), 2.80 (s, 3H), 3.17 (t, 2H), 3.58 (m, 2H), 6.36 (d, 1H), 6.56(d, 2H). Step 5. Synthesis of tert-butyl 1,6-dimethyl-2,3-dihydropyrido[2,3-b]pyrazine-4(1H)-carboxylate.

reactant | LiAlH4 | 5.64 mmol, 214 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 1,6-dimethyl-1,4-dihydropyrido[2,3-b]pyrazin-3(2H)-one | 2.82 mmol, 500 mg | CN1C2=C(NC(C1)=O)N=C(C=C2)C | C9H11N3O
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(1-Methyl-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-6-yl)ethanol | 91% yield | CN1C2=C(NCC1)N=C(C=C2)CCO | C10H15N3O
